US03985751
A solution of chloromethyl methyl ether (40.2 g, 0.5 mole, freshly distilled) in dry tetrahydrofuran (80 ml) is prepared, and about 5 ml of that solution are added to a stirred mixture of magnesium turnings (12.0 g, 0.5 g - atom) and mercuric chloride (500 mg) in tetrahydrofuran (20 ml) until an exothermic reaction ensues. The flask is cooled to 0°± 10° and the remainder of the chloromethyl methyl ether solution is added dropwise with thorough agitation. After completion of addition a solution of 10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one (56.1 g 0.25 mole) in tetrahydrofuran is added dropwise. The reaction mixture is stirred overnight at room temperature and the complex is hydrolyzed with ice-cold ammonium chloride solution. The aqueous layer is extracted with ether (3 × 100 ml) and the combined extracts are washed with sodium chloride solution, dried and evaporated under reduced pressure to give 10,11-dihydro-5-methoxymethyl-5H-dibenzo[a,d]cyclohepten-5-ol as an oil with b.p. 143°- 144° C/0.05 mm, γmaxfilm : 3500 cm-1, 2820 cm-1.

reactant | magnesium | 12.0 g | [Mg] | Mg
reactant | chloromethyl methyl ether | COCCl | C2H5ClO
reactant | 10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one | 0.25 mole, 56.1 g | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=O | C15H12O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 10,11-dihydro-5-methoxymethyl-5H-dibenzo[a,d]cyclohepten-5-ol | COCC1(C2=C(CCC3=C1C=CC=C3)C=CC=C2)O | C17H18O2
